### PR TITLE
RISCV Access Control

### PR DESCRIPTION
**Pull request by ryybrr**
Add access control proofs for RISCV. Some ARM proofs have been updated as their corresponding generic theories were modified.

### CODE REVIEW

**Comment by lsf37** [comment]
Nice! I'll do the branch merge thing (which will disappear in rebase) and start a test board.

@ssrg-bamboo `proof`

**Comment by ssrg-bamboo** [comment]
Hello, I'm a bot! I've set up a proof testboard for this PR [here](https://github.com/seL4/gh-testboard/blob/ryybrr-riscv-access-305-065631/manifest.xml), and results should show up as `pending` in status checks in a few minutes.

File: proof/access-control/ARM/ArchInterrupt_AC.thy [hunk 1]
```diff
@@ -62,7 +63,12 @@ crunches arch_check_irq for inv[Interrupt_AC_assms, wp]: P
 
 end
 
-requalify_consts ARM_A.arch_authorised_irq_ctl_inv
+
+context begin interpretation Arch .
+
+requalify_consts arch_authorised_irq_ctl_inv
+
+end
```
Comment (mbrcknl) [inline proof/access-control/ARM/ArchInterrupt_AC.thy:71]: Just curious: was there a problem with the way it was previously phrased?

IIUC, the old way should have the same effect as what you've replaced it with, but the old way is probably faster, since it doesn't require unpacking the whole `Arch` locale. Since you're in an `ARM` theory, I guess it's ok to mention `ARM_A` explicitly.

Comment (mbrcknl) [reply proof/access-control/ARM/ArchInterrupt_AC.thy:71]: We're probably not very consistent in the way we do this, though. I expect there are many places we unpack all  of `Arch` in an arch theory, where specific constants  or facts would work just as well.

**Review by mbrcknl — APPROVED** [review]
Looks really good! Nice work!

File: proof/access-control/RISCV64/ArchArch_AC.thy [hunk 2]
```diff
@@ -0,0 +1,1995 @@
...
+  done
+
+lemma mapM_swp_store_pte_invs_unmap:
+  "\<lbrace>\<lambda>s. invs s \<and> pte = InvalidPTE \<and> table_base p \<notin> global_refs s
+               \<and> (\<forall>asid. vspace_for_asid asid s \<noteq> Some (table_base p))\<rbrace>
+   store_pte p pte
+   \<lbrace>\<lambda>_. invs\<rbrace>"
+  by (wpsimp wp: store_pte_invs simp: wellformed_pte_def)
+
+lemma FIXME_wordAND_wordNOT_mask_plus:
```
Comment (lsf37) [inline proof/access-control/RISCV64/ArchArch_AC.thy:451]: This should probably move to Word_Lib if it doesn't exist there already.

File: proof/access-control/RISCV64/ArchArch_AC.thy [hunk 3]
```diff
@@ -0,0 +1,1995 @@
...
+  "\<lbrace>pas_refined aag and invs and valid_pti iv and K (authorised_page_table_inv aag iv)\<rbrace>
+   perform_page_table_invocation iv
+   \<lbrace>\<lambda>_. pas_refined aag\<rbrace>"
+  unfolding perform_page_table_invocation_def
+  apply wpsimp
+   apply (wpsimp wp: perform_pt_inv_unmap_pas_refined perform_pt_inv_map_pas_refined)+
+  apply (case_tac iv; clarsimp)
+  done
+
+(* FIXME move to AInvs *)
```
Comment (lsf37) [inline proof/access-control/RISCV64/ArchArch_AC.thy:792]: This one and the following 4-ish lemmas as well. Please do move them.

File: proof/access-control/RISCV64/ArchArch_AC.thy [hunk 4]
```diff
@@ -0,0 +1,1995 @@
...
+  "\<lbrakk> is_subject_asid aag x; pas_refined aag s;
+     (pasASIDAbs aag x, Control, pasObjectAbs aag y) \<in> pasPolicy aag \<rbrakk>
+     \<Longrightarrow> is_subject aag y"
+  by (subst aag_has_Control_iff_owns[symmetric]; simp)
+
+lemma graph_of_comp:
+  "\<lbrakk> g x = y; f y = Some z \<rbrakk> \<Longrightarrow> (x,z) \<in> graph_of (f \<circ> g)"
+  by (auto simp: graph_of_def)
+
+(* FIXME AC: move *)
```
Comment (lsf37) [inline proof/access-control/RISCV64/ArchArch_AC.thy:868]: Perform move..

File: proof/access-control/RISCV64/ArchArch_AC.thy [hunk 5]
```diff
@@ -0,0 +1,1995 @@
...
+                        pas_refined_refl cap_links_asid_slot_def label_owns_asid_slot_def
+                        cap_links_irq_def range_cover_def obj_bits_api_def pageBits_def
+                        default_arch_object_def and_mask_eq_iff_shiftr_0 mask_zero)
+  apply (subst is_aligned_neg_mask_eq[THEN sym], assumption)
+  apply (intro conjI; fastforce intro: empty_descendants_range_in)
+  done
+
+(* FIXME AC: more general than pt_slot_offset_id, replace if possible *)
+lemma pt_slot_offset_id':
+  "\<lbrakk> is_aligned pt_ptr pt_bits; mask pt_bits && (xa << pte_bits) = xa << pte_bits \<rbrakk>
```
Comment (lsf37) [inline proof/access-control/RISCV64/ArchArch_AC.thy:1422]: Please rename `xa`. If `pt_slot_offset_id` can actually be replace, that would be cool. If not it can probably be derived from this one, at least.

File: proof/access-control/RISCV64/ArchArch_AC.thy [hunk 6]
```diff
@@ -0,0 +1,1995 @@
...
+  apply (rule state_vrefsD)
+     apply (subst (asm) vs_lookup_table_unreachable_upd_idem; fastforce)
+    apply (prop_tac "x \<noteq> table_base p")
+     apply (subst (asm) vs_lookup_table_unreachable_upd_idem; fastforce dest: vs_lookup_level)
+    apply (fastforce simp: fun_upd_def aobjs_of_Some)
+   apply clarsimp
+  apply clarsimp
+  done
+
+(* FIXME AC: replace original, which has an unnecessary conjunct in the precondition *)
```
Comment (lsf37) [inline proof/access-control/RISCV64/ArchArch_AC.thy:1497]: Please do :-)

**Review by lsf37 — APPROVED** [review]
Nice work! Esp on all those RISCV page table walks.

There are still a bunch of FIXMES to resolve. I'd vote for doing all of the easy ones in this PR, because the longer we leave them the less likely they are to get done at all :-)

File: run_tests [hunk 7]
```diff
@@ -55,7 +55,6 @@ EXCLUDE["X64"]=[
 ]
 
 EXCLUDE["RISCV64"]=[
-    "Access",
```
Comment (lsf37) [inline run_tests:58]: The test finally run correctly and are picking up that we do still need to exclude the session `InfoFlow` (and its dependencies) for RISC-V.

File: proof/access-control/RISCV64/ArchCNode_AC.thy [hunk 8]
```diff
@@ -0,0 +1,334 @@
...
+       \<forall>auth\<in>cap_auth_conferred (ArchObjectCap cap). aag_has_auth_to aag auth r)\<rbrace>
+   arch_derive_cap cap
+   \<lbrace>(\<lambda>x s. \<forall>r\<in>obj_refs x. \<forall>auth\<in>cap_auth_conferred x. aag_has_auth_to aag auth r)\<rbrace>, -"
+  unfolding arch_derive_cap_def
+  apply (rule hoare_pre)
+   apply (wp | wpc)+
+  apply (clarsimp simp: cap_auth_conferred_def arch_cap_auth_conferred_def)
+  done
+
+(* FIXME: move *)
```
[the remark this answers is not in the document]
Comment (ryybrr) [reply proof/access-control/RISCV64/ArchCNode_AC.thy:284]: Not my fixme, mine have AC :)

[the remark this answers is not in the document]
Comment (lsf37) [reply proof/access-control/RISCV64/ArchCNode_AC.thy:284]: Fair enough. If it's easy to it'd still be good to do it, otherwise we'll just proliferate the FIXMEs. But if it's a hassle, it's Ok to leave.

**Comment by lsf37** [comment]
It looks like the last test run was cut short for some reason, but there is also a genuine failure in Access for ARM/RISCV64:
```isabelle
*** Undefined fact: "cte_wp_at_eqD" (line 976 of "~/ver/l4v/proof/access-control/Retype_AC.thy")
2245
  *** At command "by" (line 976 of "~/ver/l4v/proof/access-control/Retype_AC.thy")
2246
  *** Undefined fact: "cte_wp_at_eqD" (line 938 of "~/ver/l4v/proof/access-control/Retype_AC.thy")
2247
  *** At command "by" (line 938 of "~/ver/l4v/proof/access-control/Retype_AC.thy")
2248
  Unfinished session(s): Access
```

**Comment by lsf37** [comment]
> was cut short for some reason

This can happen for AWS spot instances: very cheap, but not guaranteed to not be reclaimed when AWS needs more capacity. Relatively rare so far, though.

**Comment by lsf37** [comment]
Just checked, just needs `s/cte_wp_at_eqD/cte_wp_at_norm/`. Went through the rest again -- happy to merge once that is in.
